US03966780
2.4 g of 7,11-dimethyl-2,4,10-dodecatrienoic acid methyl ester is dissolved in 30 ml of methylene chloride and mixed portionwise at 0°C., with stirring, with 2.4 g of m-chloroperbenzoic acid (ca 80% by wt.). Subsequently the mixture is stirred for a further 1.5 hours at 0°C. The mixture is poured on to ice, treated with 1-N sodium hydroxide, and extracted with diethyl ether. The ethereal phase is washed to neutrality, dried and evaporated. The product is chromatographed on a 50-fold amount of Kieselgel, using hexane/20% by volume ethyl acetate as the eluant. There is obtained 10,11-epoxy-7,11-dimethyl-2,4-dodecadienoic acid methyl ester, as a colorless oil; boiling point ca. 62°C/0.05 mmHg (bulb tube); nD25 = 1.4958.

reactant | 7,11-dimethyl-2,4,10-dodecatrienoic acid methyl ester | 2.4 g | COC(C=CC=CCC(CCC=C(C)C)C)=O | C15H24O2
reactant | m-chloroperbenzoic acid | 2.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 10,11-epoxy-7,11-dimethyl-2,4-dodecadienoic acid methyl ester | COC(C=CC=CCC(CCC1C(C)(C)O1)C)=O | C15H24O3
